* C:\Users\Marqu\OneDrive\Desktop\senior_prep_workspace\senior_repo\senior_prep\LT_SPICE\ab_amp.asc
Q1 N001 N002 N003 0 2N2222
D1 N002 N005 1N4148
D2 N005 N008 1N4148
R1 N001 N002 1k
R2 N008 0 1k
R3 N006 N003 4.7
R4 N006 N007 4.7
C1 output N006 220µF
R6 N005 N004 1k
C2 N004 input 15µF
V1 input 0 SINE(2.5 2.5 2K)
C3 N001 0 10µF
C4 N001 0 100µF
V2 N001 0 5V
R5 output 0 8
Q2 0 N008 N007 0 2N2907
.model D D
.lib C:\Users\Marqu\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Marqu\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 20ms
.backanno
.end
